US03994909
3-benzyl-4-isopropoxycarbonyl-1,2,4-oxadiazolin-5-one ##SPC5##
17.6 parts of 3-benzyl-5-hydroxy-1,2,4-oxadiazole, 6.9 parts of potassium carbonate and 12.3 parts of isopropyl chloroformate are heated for 5 hours at 60° C. After the mixture has cooled, the precipitated potassium chloride is removed by suction filtration and the filtrate concentrated. The residue is recrystallized from n-propanol. There is obtained 15.5 parts (59% of theory) of the desired product; m.p.: 80° C.

reactant | 3-benzyl-5-hydroxy-1,2,4-oxadiazole | C(C1=CC=CC=C1)C1=NOC(=N1)O | C9H8N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
product | 3-benzyl-4-isopropoxycarbonyl-1,2,4-oxadiazolin-5-one | C(C1=CC=CC=C1)C1=NOC(N1C(=O)OC(C)C)=O | C13H14N2O4
